US08044240B2
Step D: 1-Allyl-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-6-methoxyphenyl)cyclopropane-1-sulfonamide
To a stirred solution of 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)-3-methoxybenzene-1,2-diamine (1 eq) in anhydrous pyridine (5 ml/mmole) was added 1-allyl-cyclopropanesulfonyl chloride (1-5 eq). The reaction mixture was stirred at 40° C. for 48 hours. The reaction mixture was partitioned with water and ethyl acetate. The organic layer was washed with brine, dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica to obtain the title product. 1H NMR (CDCl3, 300 MHz): δ 7.417 (dd, 1H), 7.309 (s, 1H), 7.25 (m, 1H), 6.89 (m, 1H), 6.52 (m, 1H), 6.427 (m, 1H), 6.03 (s, 1H), 5.668 (m, 1H), 5.11 (t, 1H), 3.9 (s, 3H), 2.75 (d, 2H), 1.21 (m, 2H), 0.767 (m, 2H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)-3-methoxybenzene-1,2-diamine | 1 eq | FC1=CC(=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N)OC | C13H10F3IN2O
reactant | 1-allyl-cyclopropanesulfonyl chloride | 1-5 eq | C(C=C)C1(CC1)S(=O)(=O)Cl | C6H9ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-Allyl-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-6-methoxyphenyl)cyclopropane-1-sulfonamide | C(C=C)C1(CC1)S(=O)(=O)NC1=C(C(=C(C=C1OC)F)F)NC1=C(C=C(C=C1)I)F | C19H18F3IN2O3S
